Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine / Plaquenil / ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
Ileal Diverticulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Colorectal Surgery Consult Note:
HPI: ___ h/o h/o renal transplant for lupus nephritis on chronic
immunosuppression followed here at ___ for diverticulitis, and
by the nephrology and rheumatology services for her other
comorbidities.  Has seen Dr. ___ in clinic.  Developed
generalized abdominal pain around 10:30am ___.  Was not able
to sleep well ___ to pain.  Presented to ___ ___
7:30am with abd pain, fever to 103 and CT revealed 
diverticulitis
with possible fluid collection near site of transplanted kidney.
Received zosyn at OSH prior to transfer. No CT from OSH yet. 
Felt every bump in the road on the way to ___ ___, but now
says her pain is improved and she's able to tolerate shaking of
the bed and can move around relatively well.

Saw Dr. ___ in clinic ___ for recurrent sigmoid
diverticulitis treated medically. Dr. ___ that she
undergo a colonoscopy with biopsy of her sigmoid colon. She was
scheduled to have that later this week.  If this were negative
for autoimmune disease, he said would plan for a sigmoid
colectomy at least 8 weeks after her most recent episode of
diverticulitis.  Has had prior colonoscopy ___, was told she 
had
diverticulosis at that time.

Has had 10 lb wt loss since ___. +nausea.  No emesis. 
Subjective fevers at home prior to presentation.  Said pain more
severe this time than prior episodes of diverticulitis.  Has 
been
hospitalized for diverticulitis in ___ at ___,
recovered after 2 days IV abx and bowel rest, and sent home to
complete a two week course PO abx.  Previous episodes did not
require hospital admission and were treated with PO abx at home
___, ___ yrs prior).

 
Past Medical History:
prednisone 10 mg every other day  
 ATENOLOL - atenolol 25 mg tablet. 1 Tablet(s) by mouth once a 
day  
 AZATHIOPRINE [IMURAN] - Imuran 50 mg tablet. 1 tablet(s) by 
mouth  
 daily  
 CYCLOSPORINE [SANDIMMUNE] - Sandimmune 25 mg capsule. two  
 capsule(s) by mouth twice a day  
 PREDNISONE - prednisone 10 mg tablet. 1 tablet(s) by mouth as  
 directed alternating 15mg and 5mg every day, goal to taper down 
 
 to 10mg every other day - (Dose adjustment - no new Rx)  
 VERAPAMIL - verapamil ER 120 mg 24 hr capsule,extended release. 
1  
 Cap(s) by mouth qam  
 
 Medications - OTC  
 ASPIRIN - aspirin 81 mg tablet,delayed release. 1 tablet(s) by  

 mouth daily - (Prescribed by Other Provider)  
 CHOLECALCIFEROL (VITAMIN D3) [VITAMIN D3] - Vitamin D3 1,000 
unit  
 tablet. one Tablet(s) by mouth daily - (OTC)  
 FISH OIL - Fish Oil 1,000 mg capsule. 1 Capsule(s) by mouth 
daily  
 - (OTC)  
 VITAMIN B COMPLEX [B COMPLEX] - Dosage uncertain - (OTC)  

 
Physical Exam:
At Discharge:
General: Doing quite well, tolerating a regular diet, minimal 
abdominal pain
VSS
Neuro: A&OX3
Abd: flat, soft, nontender
___: no lower extremity edema
 
Pertinent Results:
___ 11:28AM BLOOD WBC-11.2* RBC-3.18* Hgb-9.7* Hct-29.9* 
MCV-94 MCH-30.5 MCHC-32.4 RDW-15.9* RDWSD-54.7* Plt ___
___ 03:25PM BLOOD WBC-13.0* RBC-3.44* Hgb-10.6* Hct-33.1* 
MCV-96 MCH-30.8 MCHC-32.0 RDW-16.1* RDWSD-57.0* Plt ___
___ 10:28PM BLOOD WBC-14.7*# RBC-4.10 Hgb-12.3 Hct-38.1 
MCV-93 MCH-30.0 MCHC-32.3 RDW-16.0* RDWSD-54.9* Plt ___
___ 02:17AM BLOOD ___ PTT-28.6 ___
___ 11:28AM BLOOD Glucose-74 UreaN-30* Creat-1.0 Na-133 
K-4.4 Cl-110* HCO3-16* AnGap-11
___ 03:25PM BLOOD Glucose-71 UreaN-34* Creat-1.3* Na-136 
K-4.5 Cl-103 HCO3-18* AnGap-20
___ 10:28PM BLOOD Glucose-81 UreaN-21* Creat-1.3* Na-135 
K-4.1 Cl-99 HCO3-21* AnGap-19
___ 11:28AM BLOOD Calcium-8.4 Phos-2.2*# Mg-2.0
___ 03:25PM BLOOD Calcium-8.5 Phos-4.2 Mg-2.0

 CT ABD & PELVIS WITH CONTRAST Study Date of ___ 8:37 AM 
IMPRESSION: 
1. A diverticulum at the distal ileum with surrounding fat 
stranding is 
suspicious for ileal diverticulitis.  A small focus of air in 
the vicinity may be extraluminal.  Appendix is within normal 
limits. 
2. Extensive diverticulosis throughout the colon and scattered 
diverticulosis 
of small bowel.  No evidence of colonic diverticulitis. 
3. Right lower quadrant transplant kidney with moderate 
hydronephrosis is 
similar to ___. 

 
Brief Hospital Course:
___ was admitted to the inpatient colorectal surgery 
service for treatment of ileal diverticulitis. This was a 
complicated case given the proximity of the area of 
diverticulitis to the transplanted kidney. Transplant Nephrology 
followed the patient while inpatient. We remained NPO when 
admitted and was hydrated intravenously. She was given 
intravenous cefepime and flagyl. Her white blood cell count was 
monitored closely and had decreased from 14 to 11. On ___ 
she tolerated clear liquids and was advanced to regular diet on 
___ without issue. On ___ she was doing quite well and 
her pain resolved. The patient was discharged home with close 
nephrology follow-up and she will discuss surgical plan in 
___ clinic with dr ___. 
 
Medications on Admission:
PREDNISONE - prednisone 10 mg tablet. 1 tablet(s) by mouth as  
 directed alternating 15mg and 5mg every day, goal to taper down 
 
 to 10mg every other day - (Dose adjustment - no new Rx)  
 VERAPAMIL - verapamil ER 120 mg 24 hr capsule,extended release. 
1  
 Cap(s) by mouth qam  
 
 Medications - OTC  
 ASPIRIN - aspirin 81 mg tablet,delayed release. 1 tablet(s) by  

 mouth daily - (Prescribed by Other Provider)  
 CHOLECALCIFEROL (VITAMIN D3) [VITAMIN D3] - Vitamin D3 1,000 
unit  
 tablet. one Tablet(s) by mouth daily - (___)  
 FISH OIL - Fish Oil 1,000 mg capsule. 1 Capsule(s) by mouth 
daily  
 - (OTC)  
 VITAMIN B COMPLEX [B COMPLEX] - Dosage uncertain - (OTC)  
 ALL: Codeine / Plaquenil / ciprofloxacin (Achilles tendonitis)  


 
Discharge Medications:
1. Atenolol 25 mg PO DAILY 
2. Azathioprine 50 mg PO DAILY 
3. CycloSPORINE (Sandimmune) 50 mg PO Q12H 
4. PredniSONE 10 mg PO EVERY OTHER DAY 
5. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 13 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*26 Tablet Refills:*0
6. Verapamil SR 120 mg PO Q24H 
7. Aspirin 81 mg PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. Vitamin B Complex w/C home dose TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ileal Diverticulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the inpatient Colorectal Surgery Service 
with Ileal Diverticulitis. This is concerning given the location 
of this infection to you renal transplant. It is very important 
that you take the antibiotic Augmentin for 14 days total. Please 
call our office to make an appointment to see Dr. ___ Dr. 
___ to discuss further treatment. Please call us with any of 
the following abdominal symptoms: increased abdominal pain, 
nausea, vomiting, fever greater than 100.1, or any other 
concerning symptoms. Please call with any questions. Thank you 
so much for allowing us to participate in your care.

It is very important that you see Dr. ___ one week to 
monitor your immunosuppression.
 
Followup Instructions:
___